US05237063
2-Amino-4-trifluoromethoxy-6-trifluoromethylpyrimidine
4.7 g (0.278 mol) of gaseous ammonia were passed over the course of 1 hour into a stirred mixture of 38.0 g (0.147 mol) of 2-fluoro(chloro)-4-trifluoromethoxy-6-trifluoromethylpyrimidine and 150 ml of diethyl ether at -75° to -70° C. The mixture was stirred for 2 hours each at -75° and at 25° C. The precipitate was filtered off with suction, and the organic phase was extracted with water, dried and evaporated. Chromatography on silica gel with methyl tert.-butyl ether yielded 20.4 g (56.1% of theory) of the title compound of melting point 47°-49° C.

reactant | ammonia | 0.278 mol, 4.7 g | N | H3N
reactant | 2-fluoro(chloro)-4-trifluoromethoxy-6-trifluoromethylpyrimidine | 0.147 mol, 38.0 g | FC1=NC(=C(C(=N1)OC(F)(F)F)Cl)C(F)(F)F | C6ClF7N2O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 2-Amino-4-trifluoromethoxy-6-trifluoromethylpyrimidine | NC1=NC(=CC(=N1)OC(F)(F)F)C(F)(F)F | C6H3F6N3O
